US20010027196A1
2-Amino-4-(2-methoxy-ethoxy)-6-phenyl-pyrimidine-5-carbonitrile
From 2-amino-4-chloro-6-phenyl-pyrimidine-5-carbonitrile, 2-methoxyethanol and DBU in DME. ES-MS m/e (%): 271 (M+H+, 100).

reactant | 2-amino-4-chloro-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)Cl)C#N)C1=CC=CC=C1 | C11H7ClN4
reactant | 2-methoxyethanol | COCCO | C3H8O2
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(2-methoxy-ethoxy)-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OCCOC)C#N)C1=CC=CC=C1 | C14H14N4O2
